US04922015
(4-Carboxymethoxyphenyl)-4-methoxyphenylcarbinol
11.2 g of 4-(4-methoxybenzoyl)phenoxyacetic acid are dissolved in 600 ml of 80% strength methanol (reflux), and 4.4 ml of N-methylmorpholine are added. 6 g of sodium borohydride are added in portions over the course of two hours, and the reaction is continued under reflux conditions for 3 hours. The mixture is cooled to room temperature and acidified to pH 2.5 with 3N HCl. The methanol is distilled off, the aqueous phase is extracted with ethyl acetate, and the organic phase is washed with brine and dried over sodium sulfate. After removal of the ethyl acetate by distillation there remains a white amorphous powder. The product is used directly for the next reaction.

reactant | 4-(4-methoxybenzoyl)phenoxyacetic acid | 11.2 g | COC1=CC=C(C(=O)C2=CC=C(OCC(=O)O)C=C2)C=C1 | C16H14O5
reactant | sodium borohydride | 6 g | [BH4-].[Na+]
reactant | HCl | 3N | Cl | ClH
solvent | methanol | CO | CH4O
solvent | N-methylmorpholine | 4.4 ml | CN1CCOCC1 | C5H11NO
product | (4-Carboxymethoxyphenyl)-4-methoxyphenylcarbinol | C(=O)(O)COC1=CC=C(C=C1)C(O)C1=CC=C(C=C1)OC | C16H16O5
